US07459448B2
9-Chloro-2-(2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-28)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and N-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-guanidine nitrate were converted to I-28 (71%): HRMS Calcd. for C20H15ClN4O3: 395.091, Found 395.0912.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | N-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-guanidine nitrate | [N+](=O)(O)[O-].O1CCOC2=C1C=CC(=C2)NC(=N)N
product | 9-Chloro-2-(2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC2=C(OCCO2)C=C3)=O)C1 | C20H15ClN4O3
